US03948918
3.34 G of m-tolylisocyanate are added dropwise to a stirred solution of 6.13 g of 3-[2-(4-aminopiperazin-1-yl)ethyl]indole in 100 ml. of dry methyene chloride while maintaining the reaction temperature below 35° C. After 2 hours a fine precipitate appears, 50 ml. of ether are added and stirring is continued for 3 additional hours. More ether is added and the product is filtered and washed with ether. The solid product is recrystallized from an ethanol and water mixture to give white flakes, m.p. 186°-188°C. of 1-[1-(indol-3-ylethyl)piperazin-4-yl]-3-m-tolylurea.

reactant | m-tolylisocyanate | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
reactant | 3-[2-(4-aminopiperazin-1-yl)ethyl]indole | 6.13 g | NN1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C14H20N4
reactant | methyene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-[1-(indol-3-ylethyl)piperazin-4-yl]-3-m-tolylurea | N1C=C(C2=CC=CC=C12)CCN1CCN(CC1)NC(=O)NC=1C=C(C=CC1)C | C22H27N5O
